US08105746B2
A distillation column-provided four-necked flask having a volume of 100 mL, which was equipped with a dropping funnel, a thermometer, a stirring device and a reflux ratio regulator, was charged with 25.0 g (140.2 mmoles) of 2-vinyl-2-adamantanol, 30.3 g (280.5 mmoles) of trimethyl orthoacetate and 0.2 g (2.8 mmoles) of propionic acid, and the internal temperature was raised to 115° C. Heating was continued for 16 hours while removing a fraction of not higher than 65° C. from a column top of the distillation column. At that time, 0.2 g (2.8 mmoles) of propionic acid was added 16 times every one hour. The reaction mixture was concentrated at 110° C. under atmospheric pressure to obtain 26.9 g (115.0 mmoles) of methyl 4-adamantylidenebutanoate. The yield was 82.0%.

reactant | 2-vinyl-2-adamantanol | 140.2 mmoles, 25.0 g | C(=C)C1(C2CC3CC(CC1C3)C2)O | C12H18O
reactant | trimethyl orthoacetate | 280.5 mmoles, 30.3 g | C(C)(OC)(OC)OC | C5H12O3
catalyst | propionic acid | 2.8 mmoles, 0.2 g | C(CC)(=O)O | C3H6O2
catalyst | propionic acid | 2.8 mmoles, 0.2 g | C(CC)(=O)O | C3H6O2
product | methyl 4-adamantylidenebutanoate | 115.0 mmoles, 26.9 g, yield was 82.0% | C12C(C3CC(CC(C1)C3)C2)=CCCC(=O)OC | C15H22O2
